US08754226B2
A solution of HBTU (8.1 g, 21 mmol), (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butanoic acid (5.3 g, 21 mmol) and DIEA (8.2 mL, 47 mmol) in DMF (50 mL) was stirred at ambient temperature for 30 minutes. Benzyl 4-aminopiperidine-1-carboxylate (5.0 g, 21 mmol) was added and the mixture was stirred at ambient temperature for 18 hours. The mixture was poured into 1N NaOH (500 mL) and the combined organic layers were extracted into EtOAc (500 mL). The combined organic layers were washed with 1N HCl (500 mL) and brine (500 mL). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to yield (S)-benzyl 4-(2-(tert-butoxycarbonylamino)-4-(methylthio)butanamido)piperidine-1-carboxylate (10 g, 21 mmol, 100%).

reactant | HBTU | 21 mmol, 8.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butanoic acid | 21 mmol, 5.3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCSC | C10H19NO4S
reactant | DIEA | 47 mmol, 8.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Benzyl 4-aminopiperidine-1-carboxylate | 21 mmol, 5.0 g | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | NaOH | 1N, 500 mL | [OH-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (S)-benzyl 4-(2-(tert-butoxycarbonylamino)-4-(methylthio)butanamido)piperidine-1-carboxylate | 21 mmol, 10 g, 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1)CCSC | C23H35N3O5S
